US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
Under argon gas, 7-[4-(4-chlorobenzoyl)benzyl]-5-methyl-2-methylthio-7H-pyrrolo[2, 3-d]pyrimidin-4(3H)-one (254 mg) was dissolved in anhydrous DME (10 ml)-anhydrous DMF (6 ml). Then, 60% sodium hydride-oil (26.4 mg) was added with ice-cooling and, after 30 minutes of agitation, methyl iodide (98 mg) was added. Then, at room temperature, the mixture was stirred for 2.5 hours. This reaction mixture was diluted with ethyl acetate, washed with saturated aqueous NaCl solution, and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by flash column chromatography (chloroform) to provide the title compound (176 mg). 1H-NMR (CDCl3) δ: 2.39(3H,s), 2.56(3H,s), 3.56(3H,s), 5.29(2H,s), 6.47(1H,d,J=l.OHz), 7.29(2H,d,J=8.4Hz), 7.45(2H,d,J=8.4Hz), 7.73(4H,d,J=8.4Hz).

reactant | 7-[4-(4-chlorobenzoyl)benzyl]-5-methyl-2-methylthio-7H-pyrrolo[2, 3-d]pyrimidin-4(3H)-one | 254 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=C(C4=C3N=C(NC4=O)SC)C)C=C2)C=C1 | C22H18ClN3O2S
reactant | sodium hydride | 26.4 mg | [H-].[Na+]
reactant | methyl iodide | 98 mg | CI | CH3I
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 176 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=C(C4=C3N=C(N(C4=O)C)SC)C)C=C2)C=C1 | C23H20ClN3O2S
